US08791267B2
1-[2-(3-Bromo-4-methoxy-phenyl)-ethyl]-1H-pyridin-2-one (I-166).
Into a 100 mL round bottom flask was added 2-bromo-4-(2-bromo-ethyl)-1-methoxy-benzene (I-165, 1.82 g, crude), 2-hydroxypyridine (258 mg, 2.72 mmol), K2CO3 (625 mg, 4.53 mmol), and DME (20 mL). After stirring for 18 hours at 80° C. the suspension was filtered and the filtrate was concentrated. The residue was purified by flash column chromatography eluting with 25-50% acetone/hexanes to afford 221 mg of I-166 as a brown oil in 40% yield (2 steps).

reactant | 2-bromo-4-(2-bromo-ethyl)-1-methoxy-benzene | 1.82 g | BrC1=C(C=CC(=C1)CCBr)OC | C9H10Br2O
reactant | 2-hydroxypyridine | 2.72 mmol, 258 mg | OC1=NC=CC=C1 | C5H5NO
reactant | K2CO3 | 4.53 mmol, 625 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DME | 20 mL | COCCOC | C4H10O2
product | 1-[2-(3-Bromo-4-methoxy-phenyl)-ethyl]-1H-pyridin-2-one | 40% yield | BrC=1C=C(C=CC1OC)CCN1C(C=CC=C1)=O | C14H14BrNO2
